US20010053785A1
(2R)-2-[4′-(2-benzyl-benzofuran-3-yl)-3,5-dibromo-biphenyl-4-yloxy]-4-methyl-pentanoic acid
The title compound was prepared from 4′-(2-benzyl-benzofuran-3-yl)-3,5-dibromo-biphenyl-4-ol, and (S)-(−)-hydroxyisocaproic acid methyl ester, in substantially the same manner, as described in Example 1, steps g-h , and was obtained as a white solid, mp 81-83° C.; MS m/e 645 (M−H)+;

reactant | 4′-(2-benzyl-benzofuran-3-yl)-3,5-dibromo-biphenyl-4-ol | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC(=C(C(=C1)Br)O)Br)C=CC=C2 | C27H18Br2O2
reactant | (S)-(−)-hydroxyisocaproic acid methyl ester | COC([C@H](CC(C)C)O)=O | C7H14O3
product | (2R)-2-[4′-(2-benzyl-benzofuran-3-yl)-3,5-dibromo-biphenyl-4-yloxy]-4-methyl-pentanoic acid | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC(=C(C(=C1)Br)O[C@@H](C(=O)O)CC(C)C)Br)C=CC=C2 | C33H28Br2O4
